US07214673B2
(S)-10-(3-Benzyl-piperazin-1-yl)-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By using a similar method of the method of Example 460, using 2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine(1.44 g, 5.5 mmol) and (S)-2-benzyl-piperazine (0.983 g, 5.5 mmol) to give 0.580 g of the title compound as a yellow solid: mass spectrum (ion spray): m/z=418 (M+1); Analysis for C24H27N5S(0.2 H2O): calcd: C, 68.44; H, 6.56; N, 16.63; found: C, 68.63; H, 6.43; N, 16.74.

reactant | 2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 5.5 mmol, 1.44 g | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C13H14N4S
reactant | (S)-2-benzyl-piperazine | 5.5 mmol, 0.983 g | C(C1=CC=CC=C1)[C@@H]1NCCNC1 | C11H16N2
product | (S)-10-(3-Benzyl-piperazin-1-yl)-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.580 g | C(C1=CC=CC=C1)[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2 | C24H27N5S
